Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-3.96005269481
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],3.98663294171
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],4.42780319387
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[O:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14],3.3008481
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],7.56519301293
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],1.3825454967
[H:1][O:2][C:3]([H:4])[C:5]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.51471346977
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],4.399588378480001
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10],3.88169928495
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:6].[O:1]=[C:2][O:3][C:4]([H:5])=[C:7]([H:8])[H:9],1.78337940866
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.25475530246
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:13]([C:10]([C:7]([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-1.0057650735
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57671876072
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.83541384252
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10],-3.57239246443
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[H:7],-4.04288526786
[C:1][C:2][O:3].[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.85127429561
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[H:7],5.3335648857
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.89861214846
[H:1].[O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.66785153527
[C:1].[C:2]#[C:3][O:4][O:5]>>[C:1][C:2]#[C:3][O:4][O:5],-6.74895428211
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[O:6][H:7],-0.55927825456
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],4.00018775504
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12],5.373375236219999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.62218685227
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3](=[C:4][H:5])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91399314717
[C:1][C:2]#[C:3][O:4][C:5][H:6]>>[C:1].[C:2]#[C:3][O:4][C:5][H:6],6.263417542719999
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:3]([H:4])([H:5])=[C:6][O:7][H:8].[H:1][C:2],3.19810374764
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.1314554842
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.00131367847
